US06184225B2
1,3-Dicyclohexylcarbodiimide (343 mg, 1.6 mmol) was added to a suspension of 3-morpholinopropionic acid (325 mg, 1.6 mmol) in pyridine (12 ml) and the mixture stirred for 10 minutes. 7-Amino-4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)quinazoline hydrochloride (370 mg, 0.97 mmol), (prepared as described for the starting material in Example 29), was added and the mixture stirred for 32 hours. 3-Morpholinopropionic acid (57 mg, 0.29 mmol) followed by 1,3-dicyclohexylcarbodiimide (100 mg, 0.48 mmol) was added and the mixture stirred for a further 18 hours. The solvent was removed by evaporation, the residue partitioned between water and ethyl acetate and the aqueous layer adjusted to pH8 with a saturated solution of sodium hydrogen carbonate. The organic layer was separated, washed with brine, dried (MgSO4), and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (95/5) to give 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-(3-morpholinopropionamido)quinazoline (226 mg, 48%) as a white solid.

reactant | 1,3-Dicyclohexylcarbodiimide | 1.6 mmol, 343 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-morpholinopropionic acid | 1.6 mmol, 325 mg | O1CCN(CC1)CCC(=O)O | C7H13NO3
reactant | 7-Amino-4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)quinazoline hydrochloride | 0.97 mmol, 370 mg | Cl.NC1=CC=C2C(=NC=NC2=C1)NC1=C(C=C(C(=C1)OC(=O)OC)C)F
reactant | 3-Morpholinopropionic acid | 0.29 mmol, 57 mg | O1CCN(CC1)CCC(=O)O | C7H13NO3
reactant | 1,3-dicyclohexylcarbodiimide | 0.48 mmol, 100 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-(3-morpholinopropionamido)quinazoline | 226 mg, 48% | FC1=C(NC2=NC=NC3=CC(=CC=C23)NC(CCN2CCOCC2)=O)C=C(C(=C1)C)OC(=O)OC | C24H26FN5O5
